US04269838
In the same manner as described in Example 1A, 9.1 g of piperazine is allowed to react with 10.8 g of α-naphthyl glycidyl ether to yield 10.0 g of N-[3-(naphth-1-yloxy)-2-hydroxypropyl]-piperazine. Five grams of this compound and 2.3 g of triethylamine are dissolved in 20 ml of benzene and, with stirring and at room temperature, 3.16 g of N,N-diethylcarbamyl chloride are added dropwise over a period of 30 minutes. When the addition is complete, the mixture is heated at reflux for 2 hours and, after cooling, washed with water and dried. The solvent is removed by distillation, the residue dissolved in ethanol and hydrogen chloride bubbled through the solution. The title compound is thus obtained as the hydrochloride which is recrystallized from isopropyl alcohol. Yield: 2.44 g; m.p. 152°-156° C.

reactant | piperazine | 9.1 g | N1CCNCC1 | C4H10N2
reactant | α-naphthyl glycidyl ether | 10.8 g | C(C1CO1)OC1=CC=CC2=CC=CC=C12 | C13H12O2
product | N-[3-(naphth-1-yloxy)-2-hydroxypropyl]-piperazine | 10.0 g | C1(=CC=CC2=CC=CC=C12)OCC(CN1CCNCC1)O | C17H22N2O2
